US06416861B1
Preparation of 2-[(2-Allyldimethylsilylpyridin-5-yl)methoxy]tetrahydro-2H-pyran (6 Scheme 27).
To a solution of 2-[(2-bromopyridin-5-yl)methoxy]tetrahydro-2H-pyran. (5 Scheme 27, 5.1 g, 18.7 mmol) in dry THF (200 mL) at −78° C. was added n-butyllithium (7.5 mL, 2.5 M solution in hexanes, 18.7 mmol). After being stirred for 10 min −78° C., allylchlorodimethylsilane (2.5 g, 18.7 mmol) was added dropwise over a period of 20 min. The reaction mixture was stirred further for 1 h and warmed to room temperature. Concentrated NH4Cl (5 mL) was added to the solution, and the reaction mixture was concentrated. The resulting yellow oil was concentrated, extracted with ethyl acetate/water, and the organic layer was dried, concentrated, and purified by column chromatography (1:7 ethyl acetate/hexanes) to give the desired compound as a liquid (3 g, 55%) 1H NMR (300 MHz, CDCl3) δ 0.31 (s, 6 H), 1.45-1.68(6 H), 1.82 (d, J=8.40 Hz, 2 H), 3.54 (m, 1 H), 3.87 (m, 1 H), 4.47 (d, J=12.30 Hz, 1 H), 4.70 (t, J=3.45 Hz, 1 H), 4.77 (d, J=12.30 Hz, 1 H), 4.80-4.87 (2 H), 7.75 (m, 1 H), 7.46 (d, J=7.50 Hz, 1 H), 7.58 (dd, J=7.50, 1.80 Hz, 1 H), 8.76 (1 H); 13C NMR (75 MHz, CDCl3) −3.8 (2C), 19.4, 22.9, 25.8, 30.6, 62.3, 66.7, 98.1, 113.8, 129.1, 133.0, 133.6, 134.6, 149.9, 165.9. HRMS (EI) calcd for C16H25NO2Si 291.1654, found 291.1556.

reactant | 2-[(2-bromopyridin-5-yl)methoxy]tetrahydro-2H-pyran | BrC1=NC=C(C=C1)COC1OCCCC1 | C11H14BrNO2
reactant | n-butyllithium | 18.7 mmol, 2.5 M, 7.5 mL | C(CCC)[Li]
reactant | allylchlorodimethylsilane | 18.7 mmol, 2.5 g | C(C=C)[Si](C)(C)Cl | C5H11ClSi
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-[(2-Allyldimethylsilylpyridin-5-yl)methoxy]tetrahydro-2H-pyran | 3 g, 55% | C(C=C)C1=NC=C(C=C1[SiH](C)C)COC1OCCCC1 | C16H25NO2Si
